US07119086B2
1-(4-Pyridyl)homopiperazine
A mixture of 2 g of 4-bromopyridine and 10 g of homopiperazine is heated at 100° C. for 4 hours. 100 ml of water are added to the reaction mixture and the resulting mixture is basified to pH 10 by addition of 10% NaOH solution and extracted three times with 100 ml of chloroform, the organic phase is dried over Na2SO4 and the solvent is evaporated off under vacuum. 0.9 g of the expected product is obtained.

reactant | 4-bromopyridine | 2 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | homopiperazine | 10 g | N1CCNCCC1 | C5H12N2
reactant | NaOH | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 1-(4-Pyridyl)homopiperazine | 0.9 g | N1=CC=C(C=C1)N1CCNCCC1 | C10H15N3
